US05075288
PGE2 production by rheumatoid arthritis synovial cells
Synovial tissue obtained at surgery from patients with rheumatoid arthritis (RA) undergoing joint replacement was cut into pieces of 2 mm or less and incubated at approximately 100 mg/ml in serum-free minimal essential medium (MEM) containing 1 mg/ml bacterial collagenase (Sigma Chemical Co., St. Louis, Mo.) and 10 μg/ml testicular hyaluronidase (Sigma) at 37° C. with rocking. After 3-4 h, the suspension was centrifuged at 150 xg for 10 min. The cells were resuspended (105 cells/ml) in MEM containing 20% fetal calf serum (FCS) and plated in 100-mm diameter Petri dishes (10 ml per dish). The disaggregated cells were cultured overnight at 37° C. in 5% CO2, and the nonadherent cells were aspirated off by vigorous pipetting. Adherent synovial cells were maintained in culture with medium change every four days until they reached confluency, at which time they were subcultured after trypsinization and grown in maintenance medium (Eagle's MEM Supplemented with nonessential amino acids, ascorbic acid, amphotericin B (1 μg/ml), NaHCO3, penicillin (100 U/ml), and streptomycin (100 μ/ml), FCS (9%), and PBS).

reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | amphotericin B | C[C@H]1/C=C/C=C/C=C/C=C/C=C/C=C/C=C/[C@@H](C[C@H]2[C@@H]([C@H](C[C@](O2)(C[C@H](C[C@H]([C@@H](CC[C@H](C[C@H](CC(=O)O[C@H]([C@@H]([C@@H]1O)C)C)O)O)O)O)O)O)O)C(=O)O)O[C@H]3[C@H]([C@H]([C@@H]([C@H](O3)C)O)N)O | C47H73NO17
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
solvent | CO2 | C(=O)=O | CO2
product | PGE2 | CCCCC[C@@H](/C=C/[C@H]1[C@@H](CC(=O)[C@@H]1C/C=C\CCCC(=O)O)O)O | C20H32O5
